US06794536B1
Preparation of Disodium Pamidronate
For a batch size of 5 L, 587.5 g (3.2 moles) of mannitol is dissolved in 3.5 L of water. Pamidronic acid (31.6 g, 0.133 moles) is mixed with a 1.0 L aliquot of the mannitol solution to form a slurry. The slurry is transferred into the remainder of the mannitol solution, and stirred for about 15 min. Aqueous 1 N sodium hydroxide (270 ml) is added and the mixture is stirred until a clear, colorless solution results. The pH is adjusted to 6.5±0.1 using either 1 M aqueous phosphoric acid or 1 N aqueous sodium hydroxide, as needed. The solution is filtered through a 0.22 micron filter, and filled at 20° C. into glass vials at 4.0 ml (4.172 g)/vial, and the vials are sealed in the lyophilizer in an inert atmosphere under sterile conditions.

reactant | mannitol | 3.2 moles, 5 L, 587.5 g | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | Pamidronic acid | 0.133 moles, 31.6 g | C(CN)C(O)(P(=O)(O)O)P(=O)(O)O | C3H11NO7P2
reactant | sodium hydroxide | 1 N, 270 ml | [OH-].[Na+]
reactant | phosphoric acid | 1 M | P(O)(O)(O)=O | H3O4P
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | water | 3.5 L | O | H2O
product | Disodium Pamidronate | C(CN)C(O)(P(=O)(O)[O-])P(=O)(O)[O-].[Na+].[Na+] | InChI=1S/C3H11NO7P2.2Na/c4-2-1-3(5,12(6,7)8)13(9,10)11;;/h5H,1-2,4H2,(H2,6,7,8)(H2,9,10,11);;/q;2*+1/p-2
